US07157487B2
In ethanol (15 ml), 6-fluoro-1-methylindole-3-carbaldehyde (500 mg, 2.82 mmol) and methyl 4-amino-3-hydroxyphenylacetate (767 mg, 4.23 mmol) were stirred at room temperature for 2 hours. Iodobenzene diacetate (1.09 g, 3.38 mmol) was added and the mixture was stirred at room temperature for 1 hour. The reaction mixture was then distilled under reduced pressure to remove the solvent. The residue was purified chromatography on a silica gel column, whereby from n-hexane-ethyl acetate (1:1, v/v) eluate fractions, methyl (2-(6-fluoro-1-methyl-3-indolyl)-6-benzoxazolyl)acetate (889 mg, 93%) was obtained as a brown solid.

reactant | 6-fluoro-1-methylindole-3-carbaldehyde | 2.82 mmol, 500 mg | FC1=CC=C2C(=CN(C2=C1)C)C=O | C10H8FNO
reactant | methyl 4-amino-3-hydroxyphenylacetate | 4.23 mmol, 767 mg | NC1=C(C=C(C=C1)CC(=O)OC)O | C9H11NO3
reactant | Iodobenzene diacetate | 3.38 mmol, 1.09 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | methyl (2-(6-fluoro-1-methyl-3-indolyl)-6-benzoxazolyl)acetate | 889 mg, 93% | FC1=CC=C2C(=CN(C2=C1)C)C=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C19H15FN2O3
